US07923450B2
b) [4-(2,4-Dichloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (109 mg, 0.44 mmol) and crude 2-bromo-6-(2,4-dichloro-phenyl)-cyclohexanone (350 mg, ca. 0.5 mmol) using in analogous manner the procedure described in example 1b). Obtained as a light-brown solid (118 mg, 57%). MS ISP (m/e): 473.1 [(M+H)+]. mp 136-139° C.

reactant | [3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.44 mmol, 109 mg | FC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C11H11FN4S
reactant | 2-bromo-6-(2,4-dichloro-phenyl)-cyclohexanone | ca. 0.5 mmol, 350 mg | BrC1C(C(CCC1)C1=C(C=C(C=C1)Cl)Cl)=O | C12H11BrCl2O
product | [4-(2,4-Dichloro-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-[3-fluoro-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | ClC1=C(C=CC(=C1)Cl)C1CCCC2=C1N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)F | C23H19Cl2FN4S
